*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:34:51 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "NAND4X1"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  NAND4X1 B D A Y C
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET B 2.69209e-16
*|P (B X 0 0.5000 0.4750)
*|I (Mmn1:g Mmn1 g X 0 0.5025 0.5300)
*|I (Mmp1:g Mmp1 g X 0 0.5025 1.1050)
*|S (B:2 0.5300 0.7700)
C1 Mmp1:g VSS 4.85966e-17
C2 Mmn1:g VSS 5.58044e-17
C3 B:2 VSS 1.08044e-16
C4 B VSS 5.67645e-17
Rl1 B:2 Mmn1:g 29.537926 $W=0.039
Rl2 Mmp1:g B:2 41.076393 $W=0.039
Rk3 B:2 B 45.175877 $W=0.1
*
*|NET D 2.31556e-16
*|P (D X 0 0.9000 0.4750)
*|I (Mmn3:g Mmn3 g X 0 0.8525 0.5300)
*|I (Mmp3:g Mmp3 g X 0 0.9275 1.1050)
*|S (D:2 0.8900 0.7600)
C5 Mmp3:g VSS 3.64935e-17
C6 Mmn3:g VSS 3.92379e-17
C7 D:2 VSS 1.05936e-16
C8 D VSS 4.98892e-17
Rl4 D:2 Mmn3:g 26.373627 $W=0.039
Rl5 Mmp3:g D:2 46.153847 $W=0.039
Rk6 D D:2 45.171028 $W=0.1
*
*|NET A 2.12887e-16
*|P (A X 0 0.3000 0.8550)
*|I (Mmn0:g Mmn0 g X 0 0.3975 0.5300)
*|I (Mmp0:g Mmp0 g X 0 0.2975 1.1050)
*|S (A:2 0.2600 0.7850)
C9 Mmp0:g VSS 3.5561e-17
C10 Mmn0:g VSS 5.70521e-17
C11 A:2 VSS 6.95086e-17
C12 A VSS 5.07653e-17
Rl7 Mmn0:g A:2 64.938728 $W=0.039
Rl8 A:2 Mmp0:g 33.848213 $W=0.039
Rk9 A:2 A 45.038986 $W=0.12
*
*|NET Y 2.52818e-16
*|P (Y X 0 1.1000 0.8550)
*|I (Mmn3:d Mmn3 d X 0 1.0025 0.5300)
*|I (Mmp0:d Mmp0 d X 0 0.4000 1.1050)
*|I (Mmp2:d Mmp2 d X 0 0.8225 1.1050)
*|S (Y:2 0.8200 1.0500)
C13 Mmp2:d VSS 3.30168e-17
C14 Mmp0:d VSS 7.08783e-17
C15 Mmn3:d VSS 4.65178e-17
C16 Y:2 VSS 4.65287e-17
C17 Y VSS 5.58766e-17
Rk10 Y Y:2 0.295257 $W=0.09
Rk11 Mmn3:d Y 75.185944 $W=0.09
Rk12 Y:2 Mmp0:d 31.379995 $W=0.08
Rk13 Y:2 Mmp2:d 31.057865 $W=0.08
*
*|NET C 2.71347e-16
*|P (C X 0 0.7000 0.2850)
*|I (Mmn2:g Mmn2 g X 0 0.7175 0.5300)
*|I (Mmp2:g Mmp2 g X 0 0.7175 1.1050)
*|S (C:2 0.6900 0.7700)
C18 Mmp2:g VSS 4.72404e-17
C19 Mmn2:g VSS 4.42303e-17
C20 C:2 VSS 1.13747e-16
C21 C VSS 6.61293e-17
Rl14 C:2 Mmn2:g 29.537926 $W=0.039
Rl15 Mmp2:g C:2 41.076393 $W=0.039
Rk16 C C:2 45.291046 $W=0.1
*
*|NET n2 4.43225e-18
*|I (Mmn0:d Mmn0 d X 0 0.4500 0.5300)
*|I (Mmn1:s Mmn1 s X 0 0.4500 0.5300)
C22 Mmn0:d VSS 4.43225e-18
Rmw17 Mmn1:s Mmn0:d 0.001000 $W=1
*
*|NET n1 5.91565e-18
*|I (Mmn1:d Mmn1 d X 0 0.6100 0.5300)
*|I (Mmn2:s Mmn2 s X 0 0.6100 0.5300)
C23 Mmn1:d VSS 5.91565e-18
Rmw18 Mmn2:s Mmn1:d 0.001000 $W=1
*
*|NET n0 3.68605e-19
*|I (Mmn2:d Mmn2 d X 0 0.7850 0.5300)
*|I (Mmn3:s Mmn3 s X 0 0.7850 0.5300)
C24 Mmn2:d VSS 3.68605e-19
Rmw19 Mmn3:s Mmn2:d 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0364P	PD=0.64U	PS=0.8U
+ fw=2.6e-07 sa=1.4e-07 sb=7.1e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmn1	Mmn1:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0442P	AS=0.0156P	PD=0.86U	PS=0.64U
+ fw=2.6e-07 sa=2.45e-07 sb=6.05e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmn2	Mmn2:d	Mmn2:g	Mmn2:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0234P	AS=0.0442P	PD=0.7U	PS=0.86U
+ fw=2.6e-07 sa=4.6e-07 sb=3.9e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmn3	Mmn3:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0663P	AS=0.0234P	PD=1.03U	PS=0.7U
+ fw=2.6e-07 sa=5.95e-07 sb=2.55e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0546P	PD=1.1U	PS=1.06U
+ fw=3.9e-07 sa=1.4e-07 sb=7.7e-07 sca=34.1345 scb=0.02948 scc=0.00325161
Mmp1	Mmp0:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0663P	PD=1.1U	PS=1.12U
+ fw=3.9e-07 sa=3.45e-07 sb=5.65e-07 sca=30.1089 scb=0.0217941 scc=0.00297188
Mmp2	Mmp2:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.06435P	AS=0.0663P	PD=1.11U	PS=1.12U
+ fw=3.9e-07 sa=5.6e-07 sb=3.5e-07 sca=30.2583 scb=0.0220944 scc=0.00297511
Mmp3	Mmp2:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.06435P	AS=0.0546P	PD=1.11U	PS=1.06U
+ fw=3.9e-07 sa=7.7e-07 sb=1.4e-07 sca=35.3118 scb=0.0314154 scc=0.00340463
.ENDS
.END
