*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:39:07 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "NOR4BX1"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  NOR4BX1 Y B C D AN
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET Y 2.72825e-16
*|P (Y X 0 0.1000 0.6650)
*|I (Mmn4:d Mmn4 d X 0 0.3700 0.4000)
*|I (Mmn2:d Mmn2 d X 0 0.7950 0.4000)
*|I (Mmp4:d Mmp4 d X 0 0.2750 1.2300)
*|S (Y:3 0.3700 0.4700)
*|S (Y:4 0.1400 0.6650)
C1 Mmp4:d VSS 5.10841e-17
C2 Mmn2:d VSS 7.4065e-17
C3 Mmn4:d VSS 4.94698e-17
C4 Y:4 VSS 8.55723e-17
C5 Y VSS 1.26341e-17
Rk1 Y:4 Y 0.004828 $W=0.13
Rk2 Y:3 Y:4 0.269208 $W=0.09
Rk3 Mmn4:d Y:3 75.000000 $W=0.09
Rk4 Mmn2:d Y:3 75.338242 $W=0.08
Rk5 Y:4 Mmp4:d 31.537178 $W=0.09
*
*|NET B 2.46756e-16
*|P (B X 0 0.7000 0.8550)
*|I (Mmn2:g Mmn2 g X 0 0.6925 0.4000)
*|I (Mmp2:g Mmp2 g X 0 0.6925 1.2300)
*|S (B:2 0.7200 0.8400)
*|S (B:4 0.7200 0.8400)
C6 Mmp2:g VSS 5.46374e-17
C7 Mmn2:g VSS 5.28742e-17
C8 B:2 VSS 5.61017e-17
C9 B VSS 8.31429e-17
Rl6 B:2 Mmn2:g 106.460999 $W=0.039
Rl7 Mmp2:g B:2 62.230240 $W=0.039
Rk8 B B:4 0.004060 $W=0.305
Rk9 B:2 B:4 45.000000 $W=0.305
*
*|NET C 2.57647e-16
*|P (C X 0 0.5000 1.0450)
*|I (Mmn3:g Mmn3 g X 0 0.4725 0.4000)
*|I (Mmp3:g Mmp3 g X 0 0.4725 1.2300)
*|S (C:2 0.5000 0.8550)
C10 Mmp3:g VSS 7.59096e-17
C11 Mmn3:g VSS 5.34406e-17
C12 C:2 VSS 1.08319e-16
C13 C VSS 1.99774e-17
Rl10 C:2 Mmn3:g 112.230232 $W=0.039
Rl11 Mmp3:g C:2 56.461006 $W=0.039
Rk12 C C:2 45.113438 $W=0.1
*
*|NET D 2.48313e-16
*|P (D X 0 0.3000 0.8550)
*|I (Mmn4:g Mmn4 g X 0 0.2675 0.4000)
*|I (Mmp4:g Mmp4 g X 0 0.3675 1.2300)
*|S (D:2 0.2950 0.8250)
*|S (D:4 0.2950 0.8250)
C14 Mmp4:g VSS 7.39531e-17
C15 Mmn4:g VSS 3.88481e-17
C16 D:2 VSS 5.68356e-17
C17 D VSS 7.86768e-17
Rl13 D:2 Mmn4:g 101.098900 $W=0.039
Rl14 Mmp4:g D:2 70.943932 $W=0.039
Rk15 D:4 D 0.016790 $W=0.11
Rk16 D:2 D:4 45.000000 $W=0.11
*
*|NET AN 2.15861e-16
*|P (AN X 0 1.1000 0.8550)
*|I (Mmn0:g Mmn0 g X 0 1.1325 0.4575)
*|I (Mmp0:g Mmp0 g X 0 1.0875 1.1425)
*|S (AN:2 1.0950 0.6950)
C18 Mmp0:g VSS 4.35936e-17
C19 Mmn0:g VSS 3.2864e-17
C20 AN:2 VSS 1.00073e-16
C21 AN VSS 3.93306e-17
Rl17 Mmn0:g AN:2 49.232826 $W=0.039
Rl18 AN:2 Mmp0:g 116.540520 $W=0.039
Rk19 AN AN:2 45.093590 $W=0.1055
*
*|NET n0 3.84805e-16
*|I (Mmn1:g Mmn1 g X 0 0.8975 0.4000)
*|I (Mmn0:d Mmn0 d X 0 1.2250 0.4575)
*|I (Mmp1:g Mmp1 g X 0 0.8525 1.2300)
*|I (Mmp0:d Mmp0 d X 0 1.1975 1.1425)
*|S (n0:2 0.8900 0.6650)
*|S (n0:5 1.2350 0.4700)
C22 Mmp0:d VSS 5.60337e-17
C23 Mmp1:g VSS 7.64817e-17
C24 Mmn0:d VSS 7.83557e-17
C25 Mmn1:g VSS 4.26885e-17
C26 n0:2 VSS 1.31245e-16
Rl20 Mmn1:g n0:2 37.694366 $W=0.039
Rl21 n0:2 Mmp1:g 128.078995 $W=0.039
Rk22 n0:2 n0:5 45.304382 $W=0.09
Rk23 Mmn0:d n0:5 75.000000 $W=0.09
Rk24 n0:5 Mmp0:d 62.500454 $W=0.0825
*
*|NET n3 0
*|I (Mmp4:s Mmp4 s X 0 0.4200 1.2300)
*|I (Mmp3:d Mmp3 d X 0 0.4200 1.2300)
Rmw25 Mmp3:d Mmp4:s 0.001000 $W=1
*
*|NET n2 1.99728e-18
*|I (Mmp3:s Mmp3 s X 0 0.5825 1.2300)
*|I (Mmp2:d Mmp2 d X 0 0.5825 1.2300)
C27 Mmp3:s VSS 1.99728e-18
Rmw26 Mmp2:d Mmp3:s 0.001000 $W=1
*
*|NET n1 0
*|I (Mmp2:s Mmp2 s X 0 0.7725 1.2300)
*|I (Mmp1:d Mmp1 d X 0 0.7725 1.2300)
Rmw27 Mmp1:d Mmp2:s 0.001000 $W=1
*
*Instance Section
*
Mmn4	Mmn4:d	Mmn4:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0364P	PD=0.84U	PS=0.8U
+ fw=2.6e-07 sa=1.4e-07 sb=9.01058e-07 sca=8.97712 scb=0.00732387 scc=0.000196032
Mmn3	Mmn4:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0455P	PD=0.84U	PS=0.87U
+ fw=2.6e-07 sa=3.45e-07 sb=6.96058e-07 sca=8.97712 scb=0.00732387 scc=0.000196032
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0455P	PD=0.84U	PS=0.87U
+ fw=2.6e-07 sa=5.65e-07 sb=4.76058e-07 sca=8.97712 scb=0.00732387 scc=0.000196032
Mmn1	Mmn2:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.04365P	PD=0.84U	PS=0.9U
+ fw=2.6e-07 sa=7.7e-07 sb=2.71058e-07 sca=8.97712 scb=0.00732387 scc=0.000196032
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.04365P	PD=0.57U	PS=0.9U
+ fw=1.45e-07 sa=1.005e-06 sb=1.4e-07 sca=10.7143 scb=0.0101371 scc=0.000327098
Mmp4	Mmp4:d	Mmp4:g	Mmp4:s	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0234P	PD=1.06U	PS=0.9U
+ fw=3.9e-07 sa=1.4e-07 sb=7.73846e-07 sca=17.2376 scb=0.0171686 scc=0.000563105
Mmp3	Mmp3:d	Mmp3:g	Mmp3:s	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.06825P	PD=0.9U	PS=1.13U
+ fw=3.9e-07 sa=2.45e-07 sb=6.68846e-07 sca=15.3527 scb=0.0138144 scc=0.000491181
Mmp2	Mmp2:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.06825P	AS=0.04485P	PD=1.13U	PS=1.01U
+ fw=3.9e-07 sa=4.65e-07 sb=4.48846e-07 sca=14.2604 scb=0.0119242 scc=0.000478605
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.04485P	AS=0.06535P	PD=1.01U	PS=1.16U
+ fw=3.9e-07 sa=6.25e-07 sb=2.88846e-07 sca=14.7087 scb=0.0126621 scc=0.000481524
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03762P	AS=0.06535P	PD=0.78U	PS=1.16U
+ fw=2.15e-07 sa=8.6e-07 sb=1.75e-07 sca=21.1756 scb=0.0235868 scc=0.00103894
.ENDS
.END
